US07459562B2
A) 2-Chloro-4-(2-fluoro-4-nitrophenoxy)pyrimidine
A mixture of 2,4-dichloropyrimidine (Aldrich, 0.74 g, 5.0 mmol), 2-fluoro-4-nitrophenol (Avacado, 0.79 g, 5.0 mmol), K2CO3 (0.76 g, 5.5 mmol), and DMF (50 mL) was heated at 100° C. for 2 h. The mixture was cooled and diluted with saturated NaHCO3 solution (100 mL) and extracted with EtOAc. The EtOAc extract was washed with brine, dried (MgSO4) and concentrated in vacuo to give a mixture of the 2-phenoxy- and 4-phenoxypyrimidine regioisomers as a yellow solid. The regioisomers were separated by flash chromatography using 10-40% EtOAc in hexanes as the eluent to give the title compound (0.71 g, 53%) as a white solid. 1H NMR (DMSO-d6) δ 8.76 (dd, 1H, J=6.0, 1.6 Hz), 8.43 (dt, 1H, J=9.8, 2.2 Hz), 8.23 (dd, 1H, J=8.8, 1.6 Hz), 7.80 (dt, 1H, J=9.8, 2.2 Hz), 7.48 (dd, 1H, J=6.0, 2.2 Hz).

reactant | 2,4-dichloropyrimidine | 5.0 mmol, 0.74 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 2-fluoro-4-nitrophenol | 5.0 mmol, 0.79 g | FC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4FNO3
reactant | K2CO3 | 5.5 mmol, 0.76 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
product | 2-Chloro-4-(2-fluoro-4-nitrophenoxy)pyrimidine | 0.71 g, 53% | ClC1=NC=CC(=N1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C10H5ClFN3O3
